US08895745B2
Step 4: 3-Iodo-7-(2-methyl-2H-tetrazol-5-yl)-imidazo[1,2-a]pyridine
N-Iodo succinimide (300 mg, 1.3 mmol) was added in one portion to a stirred suspension of 7-(2-methyl-2H-tetrazol-5-yl)-imidazo[1,2-a]pyridine (240 mg, 1.2 mmol) in dry DMF (2 ml) at RT under N2. After 5 hours, the reaction was quenched with saturated aqueous sodium thiosulphate/saturated aqueous NaHCO3 (1:1, 2 ml). Water (2 ml) was then added and the mixture was stirred at RT for 15 minutes. The solid was collected by filtration and dried in vacuo to give the title compound (360 mg) as a cream solid. 1H NMR (400 MHz, DMSO-d6): 8.51 (1H, dd), 8.20 (1H, dd), 7.86 (1H, s), 7.65 (1H, dd), 4.47 (3H, s).

reactant | N-Iodo succinimide | 1.3 mmol, 300 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 7-(2-methyl-2H-tetrazol-5-yl)-imidazo[1,2-a]pyridine | 1.2 mmol, 240 mg | CN1N=C(N=N1)C1=CC=2N(C=C1)C=CN2 | C9H8N6
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-Iodo-7-(2-methyl-2H-tetrazol-5-yl)-imidazo[1,2-a]pyridine | 360 mg | IC1=CN=C2N1C=CC(=C2)C=2N=NN(N2)C | C9H7IN6
